US07666888B2
5-Ethyl-2-methyl-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}piperidine
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 5-ethyl-2-methylpiperidine (7.6 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (5.5 mg). HRMS calcd for C19H24N2O2: 312.1838, found 312.1841.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 5-ethyl-2-methylpiperidine | 0.060 mmol, 7.6 mg | C(C)C1CCC(NC1)C | C8H17N
product | 5-Ethyl-2-methyl-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}piperidine | C(C)C1CCC(N(C1)C(=O)C=1C=NOC1C1=CC=C(C=C1)C)C | C19H24N2O2
